US07230020B2
Reaction of 4-aminobenzophenone (102 mg, 0.52 mmol) in THF (6 mL) with 4-biphenylcarbonyl chloride (143 mg, 0.65 mmol) in presence of triethylamine (90 μL, 0.65 mmol) according to method A gave biphenyl-4-carboxylic acid (4-benzoyl-phenyl)-amide (125 mg, 0.33 mmol, 63% yield) as a yellow powder after purification by crystallisation in DCM/EtOAc.

reactant | 4-aminobenzophenone | 0.52 mmol, 102 mg | NC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H11NO
reactant | 4-biphenylcarbonyl chloride | 0.65 mmol, 143 mg | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | triethylamine | 0.65 mmol, 90 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | biphenyl-4-carboxylic acid (4-benzoyl-phenyl)-amide | 0.33 mmol, 125 mg, 63% yield | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C26H19NO2
